US08034812B2
Production of 3-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-methyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 259 and using 3-chloro-1-methyl-1H-pyrazole-5-carboxylic acid (59 mg, 0.37 mmol), tetrahydrofuran (5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (130 μL, 1.5 mmol), N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.31 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (100 mg, 71%) was obtained as a white solid.

reactant | 3-chloro-1-methyl-1H-pyrazole-5-carboxylic acid | 0.37 mmol, 59 mg | ClC1=NN(C(=C1)C(=O)O)C | C5H5ClN2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 1.5 mmol, 130 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.31 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 3-chloro-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-methyl-1H-pyrazole-5-carboxamide | 100 mg, 71% | ClC1=NN(C(=C1)C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)F)C | C21H17ClFN7O3
